US05070089
ii) Methyl 4-(3,4-dimethoxy-2-hydroxybenzyl)-1-piperazinecarbodithioate hydrochloride
In 1 ml of chloroform was dissolved 0.5 g of methyl 4-(3,4-dimethoxy-2-hydroxybenzyl)-1-piperazinecarbodithioate. To the solution was dropwise added under chilling with ice 1.46 ml of 1-N HCl/ether mixture, and the resulting mixture was stirred at room temperature. Precipitated crystals were collected by filtration and washed with 6 ml of ether to give 0.53 g of the desired compound as a white powder, m.p. 204°-205° C. (decomp.), yield 95.9%.

reactant | methyl 4-(3,4-dimethoxy-2-hydroxybenzyl)-1-piperazinecarbodithioate | 0.5 g | COC=1C(=C(CN2CCN(CC2)C(=S)SC)C=CC1OC)O | C15H22N2O3S2
reactant | HCl ether | Cl.CCOCC
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | ice 1 | C[C@@H]1OC[C@@H]2[C@@H](O1)[C@@H]([C@H]([C@@H](O2)OC3[C@H]4COC(=O)[C@@H]4[C@@H](C5=CC6=C(C=C35)OCO6)C7=CC(=C(C(=C7)OC)O)OC)O)O.C1CN(P(=O)(OC1)NCCCl)CCCl.[NH2-].[NH2-].Cl[Pt+2]Cl
product | Methyl 4-(3,4-dimethoxy-2-hydroxybenzyl)-1-piperazinecarbodithioate hydrochloride | 0.53 g, yield 95.9% | Cl.COC=1C(=C(CN2CCN(CC2)C(=S)SC)C=CC1OC)O | InChI=1S/C15H22N2O3S2.ClH/c1-19-12-5-4-11(13(18)14(12)20-2)10-16-6-8-17(9-7-16)15(21)22-3;/h4-5,18H,6-10H2,1-3H3;1H
